US04219649
0.02 moles of 2-amino-4-ethoxycarbonylpyridine and 0.02 moles of ethyl-2-ethylacetacetate are stirred in a mixture of 10 ml. of phosphorus oxychloride and 2 g. of polyphosphoric acid at 120° C. for 2 hours. The reaction mixture is treated with 20 ml. of ethanol at 70° to 80° C., whereupon it is neutralized with a 10% (w/v) aqueous sodium hydroxide solution with ice cooling. The ethanol is evaporated, the residue is extracted with four 25-ml. portions of chloroform and the combined extracts are dried and evaporated. The evaporation residue is triturated with ether to give crystalline 2-methyl-3-ethyl-8-ethoxycarbonyl-4-oxo-4H-pyrido[1,2-a]pyrimidine, melting at 95° to 96° C. Yield: 42%. The product does not give any melting point depression when admixed with the product of Example 17.

reactant | 2-amino-4-ethoxycarbonylpyridine | 0.02 moles | NC1=NC=CC(=C1)C(=O)OCC | C8H10N2O2
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2-methyl-3-ethyl-8-ethoxycarbonyl-4-oxo-4H-pyrido[1,2-a]pyrimidine | Yield: 42% | CC=1N=C2N(C(C1CC)=O)C=CC(=C2)C(=O)OCC | C14H16N2O3
